US07148250B2
To a solution of 3-(2-hydroxyethyl)-1H-indole-2-carboxylic acid (5.589 g, 26.1 mmol) in methanol (75 mL) was added concentrated H2SO4 (3 mL), and the mixture was refluxed overnight. The solvent was removed under a reduced pressure and the residual oil was dissolved in EtOAc. The organic solution was washed with a saturated aqueous NaHCO3 solution, dried over Na2SO4, and concentrated to give 5.670 g of methyl 3-(2-hydroxyethyl)-1H-indole-2-carboxylate as an oil. This material was used for the next reaction without further purification: 1H NMR (CDCl3) δ 2.21 (brs, 1H), 3.40 (t, J=6.5 Hz, 2H), 3.88 (s, 3H), 3.94 (t, J=6.5 Hz, 2H), 7.14 (ddd, J=1.7, 6.3, and 8.1 Hz, 1H), 7.2–7.4 (m, 2H), 7.70 (d, J=8.1 Hz, 1H), 9.07 (brs, 1H).

reactant | 3-(2-hydroxyethyl)-1H-indole-2-carboxylic acid | 26.1 mmol, 5.589 g | OCCC1=C(NC2=CC=CC=C12)C(=O)O | C11H11NO3
reactant | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 75 mL | CO | CH4O
product | methyl 3-(2-hydroxyethyl)-1H-indole-2-carboxylate | 5.670 g | OCCC1=C(NC2=CC=CC=C12)C(=O)OC | C12H13NO3
